data/mechanisms/records/IMS4-EQ4.22.json
{"mechanism_id": "IMS4-EQ4.22", "species": [{"species_id": "diethyl_ether_radical_cation", "mapped_smiles": "[CH3:1][CH2:2][O+:3][CH2:4][CH3:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethyl_cation", "mapped_smiles": "[CH3:1][CH2+:2]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "ethoxy_radical", "mapped_smiles": "[O:3][CH2:4][CH3:5]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["diethyl_ether_radical_cation"]}, {"state_id": "state_products", "species_ids": ["ethyl_cation", "ethoxy_radical"]}], "steps": [{"step_id": "step_inductive_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_book", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "textbook_proposed", "locator": {"page": 65, "equation": "4.22", "figure": null, "panel": null, "section": "4.7"}, "confidence": 0.9, "curator_note": "Diethyl ether molecular ion, charge and odd electron localized on oxygen (drawn +•). Book draws 1 arc: a curved full (2-electron) arrow from the C-O sigma bond to O. move <1> is drawn and is the complete electron flow; no implicit move is required because a single 2-electron heterolysis (both C-O bonding electrons to O) fully balances the step, giving C2H5+ (40%) + •OC2H5. In symmetric Et2O either C-O bond is equivalent."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 74.0732, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_ethyl_cation", "species_id": "ethyl_cation", "step_id": "step_inductive_cleavage", "observed_mz": 29.0391, "relative_intensity": 0.4, "hydrogen_shift": 0, "isotope_offset": 0, "status": "observed", "confidence": 0.9}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
